US04600709
39.6 g (approximately 0.105 mol) of 4-[(2-tert.butyl-6-benzothiazolyl)-sulphonyl]-5-methyl-1,2-benzenediol and 72.3 g (0.523 mol) of potassium carbonate are stirred in 300 ml of dimethylformamide at room temperature under inert gas protection. In the course of 20 minutes there is added dropwise thereto half of a solution of 45.6 g (0.209 mol) of dibromoacetic acid in 100 ml of dimethylformamide. The reaction mixture is subsequently stirred for 21 hours at 100° and, during this time, the remainder of the dibromoacetic acid solution is added in small portions. For working up, the dimethylformamide is distilled off in a rotary evaporator under a water jet vacuum. The residue is dissoled in water and adjusted to pH 1-2 with concentated hydrochloric acid. The precipitated acid is extracted three times with ethyl acetate. The combined ethyl acetate solutions are washed once with water, dried over sodium sulphate, filtered and concentrated by evaporation. The residue is dissolved in 500 ml of ethanol, and after the addition of 0.5 ml of concentrated hydrochloric acid the solution is left to stand at room temperature for 10 days. During this time, the ethyl ester of 5-methyl-6-[(2 -tert.-butyl-6-benzothiazolyl)-sulphonyl]-1,3-benzodioxole-2-carboxylic acid is precipitated in the form of colourless crystals. The crystal suspension is cooled to 0° and the crystals are filtered off. 90 ml of 2N sodium hydroxide solution are added to the crystals, still moist with ethanol, and the mixture is stirred for 2 hours at room temperature, a solution being formed. This is acidified with concentrated hydrochloric acid and the precipitated acid is extracted three times with ethyl acetate. The ethyl acetate solutions are washed with water, dried over sodium sulphate, filtered and concentrated by evaporation in vacuo to dryness. The residue is recrystallised from ethyl acetate, yielding 5-methyl-6-[(2-tert.-butyl-6-benzothiazolyl)-sulphonyl]-1,3-benzodioxole-2-carboxylic acid in the form of colourless crystals having a melting point of 247° (decomposition), after sintering from 203°.

reactant | 4-[(2-tert.butyl-6-benzothiazolyl)-sulphonyl]-5-methyl-1,2-benzenediol | approximately 0.105 mol, 39.6 g | C(C)(C)(C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)C=2C=C(C(=CC2C)O)O | C18H19NO4S2
reactant | potassium carbonate | 0.523 mol, 72.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoacetic acid | 0.209 mol, 45.6 g | BrC(C(=O)O)Br | C2H2Br2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-[(2-tert.-butyl-6-benzothiazolyl)-sulphonyl]-1,3-benzodioxole-2-carboxylic acid | CC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C1=CC2=C(N=C(S2)C(C)(C)C)C=C1 | C20H19NO6S2
